US07820802B2
After benzoic acid (300.6 mg, 2.46 mmol), triphenylphosphine (776.2 mg, 2.95 mmol), (2R,4R)-2,4-pentanediol (309.1 mg, 2.95 mmol), and THF (12 mL) were added to a 50 ml flask, a 40% azodicarboxylic acid diisopropyl ester-toluene solution (1.55 ml, 2.95 mmol) dissolved in THF (6 ml) was added dropwise thereto at 20° C., and the reaction was allowed to proceed for ix hours. Water (0.5 ml) was added, and concentration was carried out. Then, water (10 ml) was added to the solution, and extraction was carried out using diethyl ether (10 ml,×2). Then, the organic layer was washed with water (10 ml) and saturated salt water (10 ml), and dehumidified with anhydrous magnesium sulfate. Subsequently, a crude product obtained by concentration was purified by column chromatography (silica gel, 40% ethyl acetate-hexane solution) to give (4S,2R)-4-benzoyloxypentane-2-ol containing 1,2-hydrazinedicarboxylic acid diisopropyl ester as 525.3 mg of a colorless oily substance. Measurement of 1H-NMR showed that 380 mg of (4S,2R)-4-benzoyloxypentane-2-ol (yield: 74%/benzoic acid), and 146 mg of 1,2-hydrazinedicarboxylic acid diisopropyl ester were contained.

reactant | benzoic acid | 2.46 mmol, 300.6 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triphenylphosphine | 2.95 mmol, 776.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2R,4R)-2,4-pentanediol | 2.95 mmol, 309.1 mg | C[C@H](C[C@@H](C)O)O | C5H12O2
reactant | azodicarboxylic acid diisopropyl ester toluene | 2.95 mmol, 1.55 ml | C(C)(C)OC(=O)N=NC(=O)OC(C)C.C1(=CC=CC=C1)C
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | Water | 0.5 ml | O | H2O
product | (4S,2R)-4-benzoyloxypentane-2-ol | C(C1=CC=CC=C1)(=O)O[C@H](C[C@@H](C)O)C | C12H16O3
